US08278331B2
A solution of [4-(6-hydroxymethyl-pyridin-3-yloxy)-phenyl]-carbamic acid t-butyl ester (0.25 g, 0.8 mmol) in DCM (3.0 ml) was treated with activated MnO2 (0.42 g, 4.8 mmol) and the suspension was stirred at RT for 2 h. The reaction suspension was filtered and the filtrate was concentrated in vacuo to provide [4-(6-formyl-pyridin-3-yloxy)-phenyl]-carbamic acid t-butyl ester (0.24 g, 95% yield). MS (ESI) m/z: 315.0 (M+H+).

reactant | [4-(6-hydroxymethyl-pyridin-3-yloxy)-phenyl]-carbamic acid t-butyl ester | 0.8 mmol, 0.25 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)OC=1C=NC(=CC1)CO)=O | C17H20N2O4
solvent | DCM | 3.0 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 4.8 mmol, 0.42 g | O=[Mn]=O
product | [4-(6-formyl-pyridin-3-yloxy)-phenyl]-carbamic acid t-butyl ester | 0.24 g, 95% yield | C(C)(C)(C)OC(NC1=CC=C(C=C1)OC=1C=NC(=CC1)C=O)=O | C17H18N2O4
